2167-10-26 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Per GI, Hct stable so started on clears in afternoon but NPO after
   midnight for EGD in am
   -6p Hct 22.8 from 24.8. Given 2uPRBCs
   -Per renal, d/c'd epo and started D5 1/2NS at 50cc/hr
   - No BMs overnight
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-25**] 08:38 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feeling well. No lightheadedness, no visual changes.
   No HA/CP/SOB.
   Flowsheet Data as of  [**2167-10-26**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 89 (86 - 104) bpm
   BP: 149/66(87) {118/46(62) - 152/72(90)} mmHg
   RR: 20 (9 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
    Orthostatics:
   Lying 148/64, HR 68
   Sitting 160/67, HR 88
   Standing 156/65 HR 110
   Total In:
                                                                  2,374 mL
                                                                    461 mL
   PO:
                                                                    360 mL
                         TF:
   IVF:
                                                                  1,510 mL
                                                                    314 mL
   Blood products:
                                                                    504 mL
                                                                    146 mL
   Total out:
                                                                    950 mL
                                                                    300 mL
   Urine:
                                                                    950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,424 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: NAD, A0x3
   HEENT: EOMI, PERRL, MMM,
   NECK: No JVD, Supple
   COR:  S1 S2, Bruit sounds radiating from patients AV fistula in L UE.
   PULM: Lungs CTAB
   ABD: Soft, NT, ND, +BS, no HSM,
   EXT: No C/C/E, Good capillary refill
   Labs / Radiology
   195 K/uL
   10.1 g/dL
   111 mg/dL
   4.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   69 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   8.4 K/uL
        [image002.jpg]
                            [**2167-10-24**]  02:07 PM
                            [**2167-10-24**]  07:50 PM
                            [**2167-10-25**]  02:00 AM
                            [**2167-10-25**]  11:00 AM
                            [**2167-10-25**]  06:05 PM
                            [**2167-10-26**]  03:13 AM
   WBC
   10.9
   8.1
   8.4
   Hct
   25.8
   25.9
   23.8
   24.8
   22.8
   29.2
   Plt
   196
   172
   195
   Cr
   3.7
   4.2
   Glucose
   89
   111
   Other labs: PT / PTT / INR:13.0/30.4/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   76 yo female with hx of ischemic colitis and lower GIB, ESRD on HD,
   presenting with acute to subacute HCT drop: DDx Upper vs Right sided
   GIB
   .
   # GI Bleed. Upper vs Right sided lower given patients prior symptoms.
   Remains hemodynamically stable although Hct has trended down.
   Appropriate Hct jump overnight following 2 units. No signs of active
   bleeding.
   - 2 Large Bore Peripheral IVs
   - IV Protonix
   - EGD today, with potential colonoscopy tomorrow if no findings seen
   - HCT Q6H
   .
   # ESRD: M, W, F schedule
   - HD today, need to discuss with renal patients true dry weight since
   she may be getting over ultrafiltrated potentially.
   .
   # Chronic Systolic CHF: Stable. UF at dialysis.
   .
   # DM: [**12-10**] of usual ISS while NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-10-24**] 11:00 AM
   20 Gauge - [**2167-10-24**] 11:37 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: PPi
   Communication:  Comments: Patient
   Code status: Full
   Disposition: [**Hospital Unit Name 44**], Call out to floor today

2167-10-26 12:31:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia secondary to blood loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's hct has drifted down over the past 48 hours after initial
   transfusions. Has been hemodynamically stable. No bowel movements.
   Patient received an additional 2 units of PRBC's last night; hct has
   increased appropriately following the transfusion.
   Patient to get dialysis today.
   Excellent oxygen saturations without supplemental O2.
   EGD this AM; no bleeding source visualized.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Enalapril
   Cough;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix, insulin, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-26**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 88 (86 - 104) bpm
   BP: 151/77(96) {118/48(67) - 156/77(96)} mmHg
   RR: 20 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
           Total In:
                                                                  2,374 mL
                                                                    820 mL
   PO:
                                                                    360 mL
           TF:
   IVF:
                                                                  1,510 mL
                                                                    674 mL
   Blood products:
                                                                    504 mL
                                                                    146 mL
   Total out:
                                                                    950 mL
                                                                    800 mL
   Urine:
                                                                    950 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,424 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Patient not in ICU; in endoscopy suite recovering
   from her EGD.
   Labs / Radiology
   10.1 g/dL
   195 K/uL
   111 mg/dL
   4.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   69 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   8.4 K/uL
        [image002.jpg]
                            [**2167-10-24**]  02:07 PM
                            [**2167-10-24**]  07:50 PM
                            [**2167-10-25**]  02:00 AM
                            [**2167-10-25**]  11:00 AM
                            [**2167-10-25**]  06:05 PM
                            [**2167-10-26**]  03:13 AM
   WBC
   10.9
   8.1
   8.4
   Hct
   25.8
   25.9
   23.8
   24.8
   22.8
   29.2
   Plt
   196
   172
   195
   Cr
   3.7
   4.2
   Glucose
   89
   111
   Other labs: PT / PTT / INR:13.0/30.4/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   CHRONIC RENAL FAILURE
   Patient doing well. Perhaps has had slow oozing versus equilibration to
   accont for drop in Hct over the weekend (especially given her renal
   failure and thus greater tendencey to hemodilute between dialsysis
   episodes). EGD, just completed, did not visualize a source of bleeding.
   Patient will need to be prepped for colonoscopy; has hx of ischemic
   colitis.  Hemodynamically stable other than mild orthostasis.
   To go to dialysis today. Electrolytes acceptable. No acidosis.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2167-10-24**] 11:00 AM
   20 Gauge - [**2167-10-24**] 11:37 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes